US07022708B2
A solution of 1-(4-Chlorobenzenesulfonyl)-5-fluoro-1H-indole (0.210 g, 0.7 mmole) and anhydrous piperazine (0.3 g, 3.4 mmole) in dimethylsulfoxide (3.0 mL) was heated at 100° in a sealed tube for 16 h. The reaction mixture was diluted with 15 mL water and extracted with 20 mL ethyl acetate. The organic phase was washed with three 10 mL portions of water, 10 mL saturated sodium chloride, dried (magnesium sulfate), and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/hexane to provide the 5-Fluoro-1-(4-piperazin-1-yl-benzenesulfonyl)-1H-indole (0.123 g), m.p. 77–78°.

reactant | 1-(4-Chlorobenzenesulfonyl)-5-fluoro-1H-indole | 0.7 mmole, 0.210 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)F | C14H9ClFNO2S
reactant | piperazine | 3.4 mmole, 0.3 g | N1CCNCC1 | C4H10N2
solvent | dimethylsulfoxide | 3.0 mL | CS(=O)C | C2H6OS
solvent | water | 15 mL | O | H2O
product | 5-Fluoro-1-(4-piperazin-1-yl-benzenesulfonyl)-1H-indole | 0.123 g | FC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)N1CCNCC1 | C18H18FN3O2S
